US06136823
2,4,5-Trifluoro-3-hydroxybenzoic acid (4.0 g) was added together with isopropyl iodide (4.7 g) to a mixed liquid of distilled water (10 ml) and ethanol (20 ml), in which sodium hydroxide (1.83 g) had been dissolved. The mixture was stirred and heated under reflux for 23 hours. The reaction mixture was concentrated under reduced pressure. The resultant residue was acidified with concentrated hydrochloric acid, and water (25 ml) was added to conduct extraction twice with chloroform (25 ml). A collected chloroform layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resultant residue was subjected to column chromatography (silica gel: 75 g, eluent; chloroform: methanol:acetic acid=500:20:1) to obtain 2,4,5-trifluoro-3-isopropyloxybenzoic acid as a solid residue.

reactant | 2,4,5-Trifluoro-3-hydroxybenzoic acid | 4.0 g | FC1=C(C(=O)O)C=C(C(=C1O)F)F | C7H3F3O3
reactant | isopropyl iodide | 4.7 g | C(C)(C)I | C3H7I
reactant | water | 10 ml | O | H2O
reactant | sodium hydroxide | 1.83 g | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2,4,5-trifluoro-3-isopropyloxybenzoic acid | FC1=C(C(=O)O)C=C(C(=C1OC(C)C)F)F | C10H9F3O3
